US06432949B1
6-chloro-N-[5-(3-cyclohexylpropionamido)-2-methylphenyl]pyridine-3-carboxamide
Using an analogous procedure to that described in Example 3, 6-chloropyrid-3-ylcarbonyl chloride was reacted with N-(3-amino-4-methylphenyl)-3-cyclohexylpropionamide (J. Med. Chem. 1996, 39, 3343-3356) to give the title compound; Mass Spectrum: M+H+ 400.

reactant | 6-chloropyrid-3-ylcarbonyl chloride | ClC1=CC=C(C=N1)C(=O)Cl | C6H3Cl2NO
reactant | N-(3-amino-4-methylphenyl)-3-cyclohexylpropionamide | NC=1C=C(C=CC1C)NC(CCC1CCCCC1)=O | C16H24N2O
product | 6-chloro-N-[5-(3-cyclohexylpropionamido)-2-methylphenyl]pyridine-3-carboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=CC(=C1)NC(CCC1CCCCC1)=O)C | C22H26ClN3O2
